US06908916B2
(1-{4-[1-(3-Fluoro-benzyl)-1H-indazol-5-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-5-ylmethyl}-piperidin-4-yl)-piperazin-1-yl-methanone
A mixture of crude 1-{4-[1-(3-fluoro-benzyl)-1H-indazol-5-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-5-ylmethyl}-piperidine-4-carboxylic acid (75 mg, 0.15 mmole), EDC (72 mg, 0.376 mmole), and DMAP (37 mg, 0.3 mmole) in dry DCM (1 mL) was stirred at RT for 0.5 hr. Piperazine (104 mg, 1.2 mmole) was added and, after 64 hr, the reaction was diluted with DCM, washed with water and dried (Na2SO4). Removal of solvent followed by radial chromatography (1 mm silica gel plate, gradient elution with DCM containing 1 to 5% MeOH) afforded the title compound as a solid (11 mg, 13%). 1H NMR (CDCl3) δ 1.67-1.80 (m, 4H), 1.96-2.09 (m, 2H), 2.15-2.18 (m, 1H), 2.58-2.65 (m, 1H), 2.82-2.86 (m, 4H), 3.17-3.20 (m, 2H), 3.43-3.48 (m, 2H), 3.57-3.62 (m, 2H), 3.77 (s, 2H), 5.57 (s, 2H), 6.48 (d, 1H, J=2.5 Hz), 6.83-6.88 (m, 1H), 6.90-6.97 (m, 2H), 7.21-7.29 (m, 1H), 7.36-7.39 (m, 1H), 7.44 (d, 1H, J=2.7 Hz), 7.55-7.58 (m, 1H), 7.89 (s, 1H), 8.08 (s, 1H), 8.18 (d, 1H, J=1.5 Hz), 11.87 (br, 1H). MS: 568.67 (M+H+); HPLC Ret Time: 1.03 min (Gradient Time=2 min, Flow Rate=5 ml/min, Xterra 3.0×50 mm S7 C18 column).

reactant | 1-{4-[1-(3-fluoro-benzyl)-1H-indazol-5-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-5-ylmethyl}-piperidine-4-carboxylic acid | 0.15 mmole, 75 mg | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NN3C2=C(C=C3)CN3CCC(CC3)C(=O)O)C=CC1 | C27H26FN7O2
reactant | EDC | 0.376 mmole, 72 mg
reactant | Piperazine | 1.2 mmole, 104 mg | N1CCNCC1 | C4H10N2
catalyst | DMAP | 0.3 mmole, 37 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (1-{4-[1-(3-Fluoro-benzyl)-1H-indazol-5-ylamino]-pyrrolo[2,1-f][1,2,4]triazin-5-ylmethyl}-piperidin-4-yl)-piperazin-1-yl-methanone | 11 mg, 13% | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NN3C2=C(C=C3)CN3CCC(CC3)C(=O)N3CCNCC3)C=CC1 | C31H34FN9O
